US05705502
10.57 g (33.4 mmol) of N-(3-trifluoromethyl-phenyl)-4-pyridyl-2-pyrimidineamine are suspended in 200 ml of methylene chloride, and 10.49 g (33.42 mmol, 55% strength) of m-chloroperbenzoic acid are added. After 2 hours, 200 ml of water are added. The reaction product is isolated by filtration, washed with sodium carbonate solution and water and, after drying, N-(3-trifluoromethyl-phenyl)-4-(N-oxido-4-pyridyl)-2-pyrimidineamine is obtained. More product is obtained by chromatography (methylene chloride:methanol=9: 1) of the concentrated mother liquor; Rf =0.16 (methylene chloride:methanol=9:1).

reactant | N-(3-trifluoromethyl-phenyl)-4-pyridyl-2-pyrimidineamine | 33.4 mmol, 10.57 g | FC(C=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC=NC=C1)(F)F | C16H11F3N4
reactant | m-chloroperbenzoic acid | 33.42 mmol, 10.49 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | water | 200 ml | O | H2O
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | N-(3-trifluoromethyl-phenyl)-4-(N-oxido-4-pyridyl)-2-pyrimidineamine | FC(C=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC=[N+](C=C1)[O-])(F)F | C16H11F3N4O
